74HC14 voltage transfer characteristic
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://assets.nexperia.com/documents/data-sheet/74HC_HCT14.pdf
* Revision: Rev. 10, 29 February 2024
* Archetype: archetype-logic74hc.md
* Fit run: H1-74hc-74HC14-2026-08-07
* Node order: A Y VCC GND
.subckt OC_NEXPERIA_74HC14_GATE A Y VCC GND
+ PARAMS: KVTC=14 RINT=1k CINT=1.45570668371e-11 ROH=45 ROL=37.5 KSW=12 VHYST=0.98 VCTR=1.89 VNOM=4.5
RIN A GND 1e11
BVTC vi GND V = 0.5*v(VCC,GND)*(1-tanh(KVTC*((v(A,GND)-(VCTR/VNOM)*v(VCC,GND)-(VHYST/VNOM)*v(VCC,GND)*(v(vd)/v(VCC,GND)-0.5)*2)/v(VCC,GND))))
RD vi vd {RINT}
CD vd GND {CINT}
BDRV yd GND V = min(max(v(vd),0),v(VCC,GND))
RDRV yd Y R={ROL+(ROH-ROL)*0.5*(1+tanh(KSW*(v(vd)/v(VCC,GND)-0.5)))}
.ends OC_NEXPERIA_74HC14_GATE

.temp 25
VCC vcc 0 4.5
VA a 0 0
Xy a y vcc 0 OC_NEXPERIA_74HC14_GATE
.save v(a) v(y)
.dc VA 0 4.5 0.005
.end
